US07629363B2
Step 1 Preparation of 4-[(2,4-difluorobenzyl)amino]-1-(2,6-difluorophenyl)-6-methylpyridin-2(1H)-one
1-(2,6-difluorophenyl)-4-hydroxy-6-methylpyridin-2(1H)-one (0.3 g, 1.26 mmol) and 2,4-difluoro benzylamine (1 mL, 8.4 mmol) were combined in a nitrogen flushed culture tube. The tube was capped and heated at 180 C for 24 h. The excess amine was distilled in vacuo and the residue was chromatographed on silica (1:1 hexanes:ethyl acetate). The compound was approximately 50% pure and was carried on without further purification (0.633 g). 1H NMR (400 MHz, CD3OD) δ 7.53 (m, 1H), 7.41 (m, 1H), 7.16 (t, J=8.8 Hz, 2H), 6.93 (m, 2H), 6.00 (s, 1H), 5.42 (s, 1H), 5.42 (s, 1H), 4.37 (s, 2H), 1.93 (s, 3H) ppm. LC/MS, tr=4.65 minutes (5 to 95% acetonitrile/water over 8 minutes at 1 ml/min with detection 254 nm, at 50° C.). ES-MS m/z 363 (M+H).

reactant | 1-(2,6-difluorophenyl)-4-hydroxy-6-methylpyridin-2(1H)-one | 1.26 mmol, 0.3 g | FC1=C(C(=CC=C1)F)N1C(C=C(C=C1C)O)=O | C12H9F2NO2
reactant | 2,4-difluoro benzylamine | 8.4 mmol, 1 mL | FC1=C(CN)C=CC(=C1)F | C7H7F2N
product | 4-[(2,4-difluorobenzyl)amino]-1-(2,6-difluorophenyl)-6-methylpyridin-2(1H)-one | FC1=C(CNC2=CC(N(C(=C2)C)C2=C(C=CC=C2F)F)=O)C=CC(=C1)F | C19H14F4N2O
